US09422281B2
A mixture of (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone (0.200 g, 0.743 mmol), tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoyl)piperazine-1-carboxylate (0.340 g, 0.817 mmol), bis(triphenylphosphine)palladium (II) dichloride (0.052 g, 0.074 mmol), and sodium bicarbonate (1 M in water, 1.5 mL, 1.5 mmol) in 1,4-dioxane (3.7 mL) was heated at 80° C. for 16 h. The reaction mixture was filtered through Celite and concentrated to afford an orange oil. This material was purified via column chromatography on silica gel (gradient elution with 0-100% ethyl acetate-hexane) to afford (S)-tert-butyl 4-(4-(1-acetyl-2-methyl-1,2,3,4-tetrahydroquinoxalin-6-yl)benzoyl)piperazine-1-carboxylate (0.294 g, 83%) as an off-white solid. MS (ESI, pos. ion) m/z 479.

reactant | (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone | 0.743 mmol, 0.200 g | BrC=1C=C2NC[C@@H](N(C2=CC1)C(C)=O)C | C11H13BrN2O
reactant | tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoyl)piperazine-1-carboxylate | 0.817 mmol, 0.340 g | CC1(OB(OC1(C)C)C1=CC=C(C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1)C | C22H33BN2O5
reactant | sodium bicarbonate | 1.5 mmol, 1 M, 1.5 mL | C([O-])(O)=O.[Na+]
solvent | 1,4-dioxane | 3.7 mL | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium | 0.074 mmol, 0.052 g | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
product | (S)-tert-butyl 4-(4-(1-acetyl-2-methyl-1,2,3,4-tetrahydroquinoxalin-6-yl)benzoyl)piperazine-1-carboxylate | 0.294 g, 83% | C(C)(=O)N1[C@H](CNC2=CC(=CC=C12)C1=CC=C(C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1)C | C27H34N4O4
